Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
ibuprofen / lisinopril / Tylenol
 
Attending: ___.
 
Chief Complaint:
diffuse burning pain
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HPI: ___ PMH migraine, HTN, HLD, OA, GERD, s/p colostomy s/p
reversal, p/w two days of diffuse burning at the body with
intermittent cough, as well as odynophagia and dysphagia. 

Patient interviewed via ___ interpreter ___

Attempted to call son for collateral ___ at 22:40; message left 
w/
contact for floor but no return call received

Pt feeling in normal state of health until 2 days ago, started 
to
have vague, mild-moderate full body pain, mostly in low back,
knees, ankles. No associated fever, chills. Did have some nausea
today without vomiting, but reports generally eating well 
without
choking. Ambulating, as normal. Had a normal BM yesterday. No
incontinence. No focal weakness. No fall or other injury. At
baseline reports being ambulatory and independent, without
assistive device. 

PCP notes outpatient reviewed and summarized as follows: 
Last seen ___. Notes that pt has been having complaints
similar to the above for some time, including abdominal pain and
vague generalized discomfort. There was a prolonged
hospitalization at ___ around ___, for which records were
never obtained by the family despite requests. From the PCP
notes, it appears that this admission involved some sort of
repeat abdominal surgery and she has had a colostomy prior, 
which
has since been taken down. Pt at the time of the ___ PCP
visit had been taking intermittent tramadol. At that visit also
with suprapubic discomfort, though her UA obtained that visit 
was
unremarkable. Pt noted also to be having headaches, ongoing for 
___
years, for which she had seen neurology; these had improved
somewhat as of the ___ PCP ___. 

In ED:
VS: afeb, HR 65, 169/78, RR 16, 100% RA
ED Exam: NAD, well-appaering, ab soft nontender
Labs: CBC, BMP WNl, trop neg; UA bland, lact 1.4; flu neg
- BCx, UCx sent, pending
Imaging: CT a/p unremarkable, CXR read as unremarkable
Received: alum/mag/simethicone, viscous lido; home meds:
labetalol, simvastatin
Consult: none

 
Past Medical History:
migraine, HTN, HLD, OA, GERD, s/p colostomy s/p
reversal ___ years ago
 
Social History:
___
Family History:
FAMILY HISTORY: Reviewed and found to be not relevant to this
illness/reason for hospitalization.

 
Physical Exam:
VITALS: Afebrile and vital signs significant for mild-mod
hypertensive, oxygenating well
GENERAL: Alert and in no apparent distress; oriented but 
somewhat
distractible and tangential in answering questions
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD. No ___ edema
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent; CN2-12 intact; ___ UE, ___ motor; sensation to
light touch grossly intact throughout
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
___ 12:10PM   LACTATE-1.4
___ 11:22AM URINE  COLOR-Straw APPEAR-CLEAR SP ___
___ 11:00AM   GLUCOSE-114* UREA N-17 CREAT-0.9 SODIUM-140 
POTASSIUM-4.3 CHLORIDE-103 TOTAL CO2-24 ANION GAP-13
___ 11:00AM   ALT(SGPT)-10 AST(SGOT)-22 CK(CPK)-167 ALK 
PHOS-54 TOT BILI-1.0
___ 11:00AM   LIPASE-37
___ 11:00AM   ALBUMIN-4.3 CALCIUM-9.4 PHOSPHATE-3.4 
MAGNESIUM-2.1
___ 11:00AM   CRP-3.2
___ 11:00AM   WBC-5.5 RBC-5.06 HGB-13.3 HCT-38.4 MCV-76* 
MCH-26.3 MCHC-34.6 RDW-14.6 RDWSD-39.3
___ 11:00AM   PLT COUNT-209

  
FINDINGS:  
  
LOWER CHEST: Visualized lung fields are within normal limits.  
There is no 
evidence of pleural or pericardial effusion. 
  
ABDOMEN: 
  
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout.  
There is no evidence of focal lesions. There is no evidence of 
intrahepatic or 
extrahepatic biliary dilatation.  The gallbladder is within 
normal limits. 
  
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of 
focal lesions or pancreatic ductal dilatation.  There is no 
peripancreatic 
stranding. 
  
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions. 
  
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram.  
Bilateral renal cysts are noted the largest at the lower pole on 
the left 
measuring 3.9 x 4.0 cm.  Other bilateral hypodensities in the 
kidneys are too 
small to characterize though statistically cysts.  There is no 
evidence of 
solid renal lesions or hydronephrosis.  There is no perinephric 
abnormality. 
  
GASTROINTESTINAL: The stomach is unremarkable.  Small bowel 
loops demonstrate 
normal caliber, wall thickness, and enhancement throughout.  
Patient is status 
post sigmoidectomy.  Additional small-bowel anastomosis seen in 
the mid 
abdomen.  The colon and rectum are within normal limits.  The 
appendix is 
normal. 
  
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no 
free fluid in the pelvis. 
  
REPRODUCTIVE ORGANS: Uterus and adnexae are unremarkable. 
  
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There 
is no pelvic or inguinal lymphadenopathy. 
  
VASCULAR: There is no abdominal aortic aneurysm. 
  
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture. 
  
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits noting 
postoperative changes along the anterior abdominal wall. 
  
IMPRESSION:  
No acute intra-abdominal process, no findings to explain 
symptoms.  Normal 
appendix. 

 
Brief Hospital Course:
By morning when the hospitalist had evaluated the patient, a 
___ interpreter was used and patient said she feels much 
better with resolution in her symptoms.
Her basic lab work including CRP was negative
Given she has close follow up with her outpatient neurologist 
and PCP, her PCP was contacted and confirms she has been 
undergoing work up for her symptoms which she has been 
complaining of for many years and a diagnosis has not been 
established.

Glucose, calcium, B12, folate, TSH, hemoglobin, iron panel is 
stable. She has had multiple imaging in the past which has since 
been negative. No signs of infection either.

She is on simvastatin but CK is not elevated with my myalgias as 
such as so unlikely to be contributing. 

She had a benign physical examination.
 
___ benefit from an outpatient non emergent MRI of her C/L spine 
if not already done. No red flag symptoms on examination.

She is to see her PCP, ___ @ 1:40 ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Labetalol 200 mg PO BID 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Ranitidine 150 mg PO DAILY 
4. Simvastatin 20 mg PO QPM 

 
Discharge Medications:
1.  Hydrochlorothiazide 25 mg PO DAILY  
2.  Labetalol 200 mg PO BID  
3.  Ranitidine 150 mg PO DAILY  
4.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
chronic pain syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Your blood work and CT of the abdomen were normal. Please see 
your outpatient providers for further workup. 

Please see Dr ___ 
APPOINTMENT: TUE ___ WITH ___ at 1:40 ___ 
 
Followup Instructions:
___